US05173485
To a suspension of 62% sodium hydride (1.41 g) in N,N-dimethylformamide (30 ml) was added 4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine (4.5 g) under ice-cooling. To this solution was added dropwise methyl iodide (2.27 ml) under ice-cooling, and the mixture was stirred at the same temperature for 1.5 hours. The reaction mixture was poured into ethyl acetate (50 ml), and the resulting precipitate was filtered off. The filtrate was evaporated to give 4-methyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine (5.05 g).

reactant | sodium hydride | 1.41 g | [H-].[Na+]
reactant | 4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine | 4.5 g | N1=CC=C2N1CCCN2 | C6H9N3
reactant | methyl iodide | 2.27 ml | CI | CH3I
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 4-methyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine | 5.05 g | CN1C=2N(CCC1)N=CC2 | C7H11N3
